US07531553B2
Preparation II: 4-(3,4-Diamino-phenoxy)-pyridine.
4-(3,4-Dinitro-phenoxy)-pyridine (1.36 g, 5.21 mmol) was dissolved in 20 mL MeOH and 40 mL EtOAc. To the argon-degassed solution was added 10% by weight Pd/C (0.35 g). The reaction was vigorously stirred for 42 h at RT under 1 atm of H2 gas. The reaction was filtered through a Celite® plug. The solvent was removed under reduced pressure to obtain the title compound.

reactant | 4-(3,4-Dinitro-phenoxy)-pyridine | 5.21 mmol, 1.36 g | [N+](=O)([O-])C=1C=C(OC2=CC=NC=C2)C=CC1[N+](=O)[O-] | C11H7N3O5
solvent | MeOH | 20 mL | CO | CH4O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-(3,4-Diamino-phenoxy)-pyridine | NC=1C=C(OC2=CC=NC=C2)C=CC1N | C11H11N3O
